US07435837B2
(±)-{[6-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.12 g, 40%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[6-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.4 g, 0.92 mmol) and methylamine (0.55 g, 17.7 mmol). mp 170-173° C.

reactant | (±)-[6-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.92 mmol, 0.4 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC(=C2C2=C(C=CC=C2)Cl)F | C22H18ClFO4S
reactant | methylamine | 17.7 mmol, 0.55 g | CN | CH5N
product | (±)-{[6-fluoro-7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC1=C(C2=C(CC(O2)CNC)C=C1)C1=C(C=CC=C1)Cl | C16H15ClFNO
